US05495020
Employing ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate (8.71 g) and 60% sodium hydride (1.09 g), the procedure of Reference Example 22 is repeated to give ethyl 1-cyclopropyl-6,7,8-trifluoro-5-ethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (5 g), as white powder, m.p. 139°-140° C.

reactant | ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate | 8.71 g | C(C)C1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=C(C(=C1F)F)F)F | C17H17F4NO3
reactant | sodium hydride | 1.09 g | [H-].[Na+]
product | ethyl 1-cyclopropyl-6,7,8-trifluoro-5-ethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 5 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)CC)=O)C(=O)OCC | C17H16F3NO3
